US09126931B2
4-(2-Methanesulfonylamino-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-8-yl oxy)-piperidine-1-carboxylic acid tert-butyl ester
To the pyridine (2 ml) solution of 4-(2-amino-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-8-yl oxy)-piperidine-1-carboxylic acid tert-butyl ester (Compound P6, 50 mg, 0.105 mmol), mesyl chloride (9 μl, 1.2 eq.) was added and stirred at room temperature for 30 min. Upon the completion of the reaction, the reaction solution was concentrated under reduced pressure to obtain the title compound as an unpurified product.

reactant | 4-(2-amino-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-8-yl oxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.105 mmol, 50 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=CC2=C(C(C=3NC4=CC=C(C=C4C3C2=O)N)(C)C)C1 | C28H33N3O4
reactant | mesyl chloride | 9 μl, 1.2 eq. | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 4-(2-Methanesulfonylamino-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-8-yl oxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=CC2=C(C(C=3NC4=CC=C(C=C4C3C2=O)NS(=O)(=O)C)(C)C)C1 | C29H35N3O6S
